US04366087
The operation is conducted as in example 1, while reacting: 100 cm3 of heptane, 25 cm3 of water, 5.75 g of 2-ethyl hexanoic acid (4×10-2 mole), 6.55 g of trichloroacetic acid (4×10-2 mole), 3.20 g of sodium hydroxide (8×10-2 mole) and 14.05 g of nickel sulfate heptahydrate (5×10-2 mole). A green solid is obtained (10.8 g), which is identified as being nickel 2-ethyl hexanoate trichloroacetate (yield: 74.2%). Elemental analysis: calculated for C10H15O4Cl3Ni: C=32.9; H=4.1; Ni=16.2; found (%) C=37.5; H=5.7; Ni=15.2. Infra-red spectrum: characteristic bands at 1655 cm-1 (CCl3COO), 1570 and 1410 cm-1 (C7H15COO), 845 and 835 cm-1 (CCl3).

reactant | 2-ethyl hexanoic acid | 4×10-2 mole, 5.75 g | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | trichloroacetic acid | 4×10-2 mole, 6.55 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | sodium hydroxide | 8×10-2 mole, 3.20 g | [OH-].[Na+]
reactant | nickel sulfate heptahydrate | 5×10-2 mole, 14.05 g | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Ni+2]
solvent | water | 25 cm3 | O | H2O
solvent | heptane | 100 cm3 | CCCCCCC | C7H16
product | nickel 2-ethyl hexanoate trichloroacetate | yield: 74.2% | ClC(C(=O)[O-])(Cl)Cl.C(CCCCC)(=O)OCC.[Ni+2].ClC(C(=O)[O-])(Cl)Cl | InChI=1S/C8H16O2.2C2HCl3O2.Ni/c1-3-5-6-7-8(9)10-4-2;2*3-2(4,5)1(6)7;/h3-7H2,1-2H3;2*(H,6,7);/q;;;+2/p-2
